US04367234
5-(2-Trifluoromethylphenyl)oxazolidine-2,4-dione
By the procedure of Method A of Example 12, ethyl 1-hydroxy-1-(2-trifluoromethylphenyl)methanecarboximidate (10 g.) in 500 ml. of tetrahydrofuran was converted to toluene recrystallized 5-(2-trifluoromethylphenyl)oxazolidine-2,4-dione (5.3 g., 54%; m.p. 91°-93° C.; m/e 245).

reactant | ethyl 1-hydroxy-1-(2-trifluoromethylphenyl)methanecarboximidate | 10 g | OC(C(OCC)=N)C1=C(C=CC=C1)C(F)(F)F | C11H12F3NO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Trifluoromethylphenyl)oxazolidine-2,4-dione | FC(C1=C(C=CC=C1)C1C(NC(O1)=O)=O)(F)F | C10H6F3NO3
